US04012392
4-Ethyl-2-(p-methoxybenzyl)-1,3,3-trimethyl-4-piperidinol
A solution of 56 g of 4-ethinyl-2-(p-methoxybenzyl)-1,3,3-trimethyl-4-piperidinol in 350 ml of methanol is subjected to hydrogenation at atmospheric pressure and room temperature, the catalyst being 5% palladium on charcoal (5 g.).

reactant | 4-ethinyl-2-(p-methoxybenzyl)-1,3,3-trimethyl-4-piperidinol | 56 g | C(#C)C1(C(C(N(CC1)C)CC1=CC=C(C=C1)OC)(C)C)O | C18H25NO2
solvent | methanol | 350 ml | CO | CH4O
catalyst | palladium on charcoal | 5 g | [Pd] | Pd
product | 4-Ethyl-2-(p-methoxybenzyl)-1,3,3-trimethyl-4-piperidinol | C(C)C1(C(C(N(CC1)C)CC1=CC=C(C=C1)OC)(C)C)O | C18H29NO2
